US09029544B2
(3R,9S)-9-(tert-butyldimethylsilyloxy)-4-(2-methoxypropan-2-yl)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]
25 mg 2-((3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)propan-2-ol are dissolved in 1 ml N,N-dimethylformamide, cooled to 0° C., treated with 3 mg sodium hydride (60% in mineral oil) and stirred for 1 minute. Then 5 μl methyliodide are added and the mixture is stirred for 4 hours at room temperature. The mixture is diluted with diethylether, washed with saturated aqueous ammonium chloride and dried with magnesium sulphate.

reactant | 2-((3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)propan-2-ol | 25 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)(C)O)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C33H46F3NO4Si
reactant | sodium hydride | 3 mg | [H-].[Na+]
reactant | methyliodide | 5 μl | CI | CH3I
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | diethylether | C(C)OCC | C4H10O
product | (3R,9S)-9-(tert-butyldimethylsilyloxy)-4-(2-methoxypropan-2-yl)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)(C)OC)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C34H48F3NO4Si
